US07704995B2
2-amino-5-(3-{[(1S)-2,3-dihydro-1H-inden-1-ylamino]methyl}phenyl)-N-methylpyridine-3-carboxamide:
2-Amino-5-(3-{[[(2,4-dinitrophenyl)sulfonyl][(1S)-2,3-dihydro-1H-inden-1-yl]amino}methyl}phenyl]-N-methylpyridine-3-carboxamide was treated with excess n-propylamine (4 eq) in CH2Cl2 (150 mL). The mixture was diluted with additional ethyl acetate (200 mL). The mixture was subsequently washed with aqueous saturated sodium carbonate (3×30 mL) and brine (3×30 mL). The combined organic fractions were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by preparative HPLC (acetonitrile/water) gave desired product (5.8 g). The compound was converted to the hydrochloride salt using 4 M solution HCl in dioxane: 1H NMR (400 MHz; DMSO-d6): 9.9 (br s, NH); 9.02 (s, 1H); 8.9 (s, 1H); 8.6 (s, 1H); 8.35 (br s, NH); 8.2 (s, 1H); 7.8 (d, 2H); 7.75 (m, 2H); 7.37 (m, 2H1); 7.29 (m, 1H); 4.85 (m, 1H); 4.25 (m, 2H); 3.4 (m, 1H); 2.9 (m, 1H); 2.80 (d, 3H); 2.43 (m, 1H); 2.4 (m, 1H); MS (EI) for C23H24N4O HCl: 374 (MH+).

reactant | 2-Amino-5-(3-{[[(2,4-dinitrophenyl)sulfonyl][(1S)-2,3-dihydro-1H-inden-1-yl]amino}methyl}phenyl]-N-methylpyridine-3-carboxamide | NC1=NC=C(C=C1C(=O)NC)C1=CC(=CC=C1)CN([C@H]1CCC2=CC=CC=C12)S(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C29H26N6O7S
reactant | n-propylamine | 4 eq | C(CC)N | C3H9N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-5-(3-{[(1S)-2,3-dihydro-1H-inden-1-ylamino]methyl}phenyl)-N-methylpyridine-3-carboxamide | 5.8 g | NC1=NC=C(C=C1C(=O)NC)C1=CC(=CC=C1)CN[C@H]1CCC2=CC=CC=C12 | C23H24N4O
